US09108947B2
A suspension of the faster eluting diastereomer of tert-butyl({1-[(2R)-2-hydroxy-2-(4-methyl-1-oxo-1,3-dihydro-2-benzofuran-5-yl)ethyl]pyrrolidin-2-yl}methyl)carbamate (710 mg, 1.82 mmol) in dioxane (2.0 mL) was treated with a solution of hydrochloric acid in dioxane (4.0 M, 2.0 mL). After shaking sixteen hours, the solvents were removed in vacuo to provide 5-[(1R)-2-[2-(aminomethyl)pyrrolidin-1-yl]-1-hydroxyethyl}-4-methyl-2-benzofuran-1(3H)-one hydrochloride which was carried on without purification.

reactant | tert-butyl({1-[(2R)-2-hydroxy-2-(4-methyl-1-oxo-1,3-dihydro-2-benzofuran-5-yl)ethyl]pyrrolidin-2-yl}methyl)carbamate | 1.82 mmol, 710 mg | C(C)(C)(C)OC(NCC1N(CCC1)C[C@@H](C1=C(C2=C(C(OC2)=O)C=C1)C)O)=O | C21H30N2O5
reactant | hydrochloric acid | Cl | ClH
solvent | dioxane | 2.0 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 4.0 M, 2.0 mL | O1CCOCC1 | C4H8O2
product | 5-[(1R)-2-[2-(aminomethyl)pyrrolidin-1-yl]-1-hydroxyethyl}-4-methyl-2-benzofuran-1(3H)-one hydrochloride | Cl.NCC1N(CCC1)C[C@H](O)C1=C(C2=C(C(OC2)=O)C=C1)C | InChI=1S/C16H22N2O3.ClH/c1-10-12(4-5-13-14(10)9-21-16(13)20)15(19)8-18-6-2-3-11(18)7-17;/h4-5,11,15,19H,2-3,6-9,17H2,1H3;1H/t11?,15-;/m0./s1
